US04692184
Preparation of diethyl 2,6-bis(trifluoromethyl)-4-methyl-3,5-pyridinedicarboxylate
A 50 ml round bottomed flask is charged with 20 ml of glacial acetic acid. To this is added 5 g (0.0133 mole) of diethyl 2,6-bis(trifluoromethyl)-4-methyl-1,4-dihydro-3,5-pyridinedicarboxylate, followed by a slow addition of 3 g (0.0434 mole) of sodium nitrite. The flask is immediately fitted with a condenser and nitrogen line, the stirring continued for 18 hours, and the mixture is poured over crushed ice and water. The organics are extracted twice with ether, washed once with saturated aqueous sodium chloride and washed twice with saturated aqueous sodium bicarbonate solution. The organics are dried over anhydrous magnesium sulfate and concentrated yielding 2.16 g (43.5%) of product, m.p. 55°-58° C.

reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | diethyl 2,6-bis(trifluoromethyl)-4-methyl-1,4-dihydro-3,5-pyridinedicarboxylate | 0.0133 mole, 5 g | FC(C=1NC(=C(C(C1C(=O)OCC)C)C(=O)OCC)C(F)(F)F)(F)F | C14H15F6NO4
reactant | sodium nitrite | 0.0434 mole, 3 g | N(=O)[O-].[Na+]
solvent | water | O | H2O
product | diethyl 2,6-bis(trifluoromethyl)-4-methyl-3,5-pyridinedicarboxylate | 2.16 g, 43.5% | FC(C1=NC(=C(C(=C1C(=O)OCC)C)C(=O)OCC)C(F)(F)F)(F)F | C14H13F6NO4
